US07351700B2
4-(2,6-Dimethyl-piperidin-1-ylmethyl)-2-hexylsulfanyl-6-methyl-pyrimidine
2-Hexylsulfanyl-6-methyl-pyrimidine-4-carbaldehyde (0.2 g, 1 mmol) and 2,6-dimethylpiperidine (0.23 mL, 2 mmol) were dissolved in tetraisopropyl orthotitanate (0.5 mL) and stirred at 20° C. for 1 h. The solution was diluted with 2-propanol (5 mL) and treated with sodium cyanoborohydride (105 mg, 2 mmol) at 20° C. for 20 h. Water (1 mL) was added, and the resulting precipitate filtered off and evaporated. The product was extracted with AcOEt, sat. NH4Cl solution, dried and concentrated. The residue was purified by preparative HPLC chromatography on a YMC combiprep ODS-AQ column (75×20 mm iD, S-5 μM, 12 nm) with an acetonitrile-water gradient. One obtained 37 mg (36%) of a colorless liquid. MS: m/z=336 (M+H).

reactant | 2-Hexylsulfanyl-6-methyl-pyrimidine-4-carbaldehyde | 1 mmol, 0.2 g | C(CCCCC)SC1=NC(=CC(=N1)C=O)C | C12H18N2OS
reactant | 2,6-dimethylpiperidine | 2 mmol, 0.23 mL | CC1NC(CCC1)C | C7H15N
reactant | sodium cyanoborohydride | 2 mmol, 105 mg | C(#N)[BH3-].[Na+]
reactant | Water | 1 mL | O | H2O
solvent | tetraisopropyl orthotitanate | 0.5 mL | CC(C)[O-].CC(C)[O-].CC(C)[O-].CC(C)[O-].[Ti+4]
solvent | 2-propanol | 5 mL | CC(C)O | C3H8O
product | 4-(2,6-Dimethyl-piperidin-1-ylmethyl)-2-hexylsulfanyl-6-methyl-pyrimidine | 37 mg, 36% | CC1N(C(CCC1)C)CC1=NC(=NC(=C1)C)SCCCCCC | C19H33N3S
